US09233946B2
2-{[(5-Chloro-3-methyl-1-benzothiophen-2-yl)sulfonyl]amino}-4-methyl-1,3-thiazole-5-carboxylic acid
A mixture of ethyl 2-amino-4-methylthiazole-5-carboxylate (9.3 mg, 0.050 mmol), 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride (14 mg, 0.050 mmol) and pyridine (8 μL, 0.100 mmol) in MeCN (400 μL) was heated at 60° C. for 7 days. The solvent was removed and the residue redissolved in 1 M NaOH (300 μL, 0.300 mmol) and then heated at 60° C. over night. The crude product was diluted with water/MeOH/DMSO and acidified by addition of TFA. The product was purified by reversed phase chromatography (ACE C8, 5 μm, 21×50 mm, flow 25 ml/min, gradient: 0.1% TFA in water/MeCN over 6 minutes). The title compound was obtained in 24% yield (4.9 mg). 1H NMR (500 MHz, MeOH-d4) δ ppm 2.47 (s, 3 H) 2.65 (s, 3H) 7.47 (dd, J=8.67, 2.08 Hz, 1 H) 7.88 (dd, J=8.67, 0.51 Hz, 1 H) 7.89 (dd, J=2.08, 0.51 Hz, 1 H). MS (ESI+) m/z 403 [M+H]+.

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 0.050 mmol, 9.3 mg | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride | 0.050 mmol, 14 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | pyridine | 0.100 mmol, 8 μL | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 0.300 mmol, 1 M, 300 μL | [OH-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | 400 μL | CC#N | C2H3N
solvent | water MeOH DMSO | O.CO.CS(=O)C
product | 2-{[(5-Chloro-3-methyl-1-benzothiophen-2-yl)sulfonyl]amino}-4-methyl-1,3-thiazole-5-carboxylic acid | 24% yield | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2SC(=C(N2)C)C(=O)O)C)C1 | C14H11ClN2O4S3
